US04116956
A solution of 1.4 parts of 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine and 1.8 parts of ethyl benzimidate hydrochloride in 30 parts by volume of chloroform is stirred at room temperature for 24 hours and then washed with water.The chloroform layer is dried over sodium sulfate and the solvent is evaporated. Treatment of the residue with diethyl ether yields 8-chloro-1,6-diphenyl-4H-s-triazolo-[4,3-a] [1,4] benzodiazepine as crystals. Recrystallisation from a mixture of ethyl acetate and n-hexane yields colorless needles melting at 192° C to 193.5° C.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | ethyl benzimidate hydrochloride | Cl.C(C1=CC=CC=C1)(OCC)=N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-chloro-1,6-diphenyl-4H-s-triazolo-[4,3-a] [1,4] benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C3=CC=CC=C3)C3=CC=CC=C3)C1 | C22H15ClN4
